US07465731B2
To a mixture of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate dihydrochloride (150 mg), [4-(bromomethyl)phenyl](phenyl)methanone (143 mg), and THF (3.5 mL) was added Et3N (0.168 mL). After stirring for 2 hours at room temperature, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over MgSO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-{6-[[(3R)-1-(4-benzoylbenzyl)-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylate (149 mg)

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate dihydrochloride | 150 mg | Cl.Cl.C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1
reactant | [4-(bromomethyl)phenyl](phenyl)methanone | 143 mg | BrCC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C14H11BrO
reactant | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | Et3N | 0.168 mL | CCN(CC)CC | C6H15N
product | ethyl (2E)-3-{6-[[(3R)-1-(4-benzoylbenzyl)-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylate | 149 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(CN2C[C@@H](CC2)N(C2=CC=C(C=N2)/C=C/C(=O)OCC)C(=O)OC(C)(C)C)C=C1 | C33H37N3O5
